US04005206
An ethyl acetate solution saturated with hydrochloric acid was added to a solution of 10 g of 5-benzyloxy-tryptamine in 200 ml of isopropanol until the pH was 1-2 and the mixture was vacuum filtered. The crystals were washed with ethyl acetate and dried under reduced pressure to obtain 11.3 g of 5-benzyloxy-tryptamine hydrochloride melting at 250° C.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
reactant | 5-benzyloxy-tryptamine | 10 g | C(C1=CC=CC=C1)OC1=CC=C2NC=C(CCN)C2=C1 | C17H18N2O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 5-benzyloxy-tryptamine hydrochloride | 11.3 g | Cl.C(C1=CC=CC=C1)OC1=CC=C2NC=C(CCN)C2=C1 | InChI=1S/C17H18N2O.ClH/c18-9-8-14-11-19-17-7-6-15(10-16(14)17)20-12-13-4-2-1-3-5-13;/h1-7,10-11,19H,8-9,12,18H2;1H
